US07361659B2
To a stirred solution of 2-amino-2-methyl-1,3-propanediol (1.86 g, 17.7 mmol) in dioxane (20 ml) was added at 0° C. (ice water bath) commercially available 2-acetamido-4-methylthiazole-5-sulfonyl chloride (1.5 g, 5.89 mmol) and triethylamine (0.9 ml, 6 mmol). The light yellow suspension was stirred at room temperature for 17 h, and evaporated. The crude product was further purified by flash chromatography on silica gel (ethyl acetate/MeOH) and subsequent crystallization (dichloromethane/MeOH/hexane) to yield 2-acetamido-4-methyl-thiazole-5-sulfonic acid (2-hydroxy-1-hydroxymethyl-1-methyl-ethyl)-amide (0.33 g, 17%) as a white solid. MS (ISP) 322.2 [(M−H)−]; mp 201° C.

reactant | 2-amino-2-methyl-1,3-propanediol | 17.7 mmol, 1.86 g | NC(CO)(CO)C | C4H11NO2
reactant | 2-acetamido-4-methylthiazole-5-sulfonyl chloride | 5.89 mmol, 1.5 g | C(C)(=O)NC=1SC(=C(N1)C)S(=O)(=O)Cl | C6H7ClN2O3S2
reactant | triethylamine | 6 mmol, 0.9 ml | C(C)N(CC)CC | C6H15N
solvent | dioxane | 20 ml | O1CCOCC1 | C4H8O2
product | 2-acetamido-4-methyl-thiazole-5-sulfonic acid (2-hydroxy-1-hydroxymethyl-1-methyl-ethyl)-amide | 0.33 g, 17% | OCC(C)(CO)NS(=O)(=O)C1=C(N=C(S1)NC(C)=O)C | C10H17N3O5S2
